US08669266B2
(i) (S)-2-Benzyloxycarbonylamino-4,4-difluoro-butyric acid
To a solution of 250 mg (S)-2-Benzyloxycarbonylamino-4,4-difluoro-butyric acid methyl ester in 2 ml THF was added a solution of 21 mg LiOH in 0.5 ml water at 0° C. After 2 h the mixture was brought to pH 4 by using Amberlite IR-120 ion exchange resin. The reaction mixture was filtered and concentrated and the crude product obtained used in the next step without further purification. Yield: 229 mg

reactant | (S)-2-Benzyloxycarbonylamino-4,4-difluoro-butyric acid methyl ester | 250 mg | COC([C@H](CC(F)F)NC(=O)OCC1=CC=CC=C1)=O | C13H15F2NO4
reactant | LiOH | 21 mg | [Li+].[OH-]
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | water | 0.5 ml | O | H2O
product | (S)-2-Benzyloxycarbonylamino-4,4-difluoro-butyric acid | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)O)CC(F)F | C12H13F2NO4
